US06515155B1
(A) Preparation of 1,2,3,4-Tetrahydro-2-(1H-inden-3-yl)-isoquinoline
Tetrahydroisoquinoline (Aldrich Chemical, 18.0 g, 135.1 mmol), 1-indanone (10.0 g, 75.1 mmol) and P2O5 (2.30 g, 16.1 mmol) in 150 mL of toluene were stirred under nitrogen and refluxed for 10 h with water removal via a Dean Stark apparatus. Upon cooling a large amount of fine white powder precipitated (as amine phosphate salts). The dark green solution was filtered under N2 through a medium porosity frit and assayed by NMR after tolune removal (about 85:15 mole ratio of product to ketone). Solvent was evaporated and indanone/amine (about 3.0 g) was removed in vacuo (90-160° C. at 0.5 mm Hg, 76 Pa). The process was stopped and the crude enamine residue recovered under inert atmosphere, giving 18.0 g of dark red-green oil, 95 percent yield. The crude product was analyzed by 1H and 13C NMR and showed less than 2 percent mole ketone.

reactant | Tetrahydroisoquinoline | 135.1 mmol, 18.0 g | C1NCCC2=CC=CC=C12 | C9H11N
reactant | 1-indanone | 75.1 mmol, 10.0 g | C1(CCC2=CC=CC=C12)=O | C9H8O
reactant | P2O5 | 16.1 mmol, 2.30 g | O=P12OP3(=O)OP(=O)(O1)OP(=O)(O2)O3 | O10P4
reactant | water | O | H2O
solvent | toluene | 150 mL | C1(=CC=CC=C1)C | C7H8
product | 1,2,3,4-Tetrahydro-2-(1H-inden-3-yl)-isoquinoline | 18.0 g, 95 percent yield | C1C=C(C2=CC=CC=C12)N1CC2=CC=CC=C2CC1 | C18H17N
